US04778812
Step (3) Preparation of 2,3-Dihydro-2,2,9-trimethyl-1H-pyrrolo[1,2-a]indol-1-ol
Sodium borohydride (1.93 g, 50.7 mmole) was added portionwise upon mild cooling to a solution of 2,3-dihydro-2,2,9-trimethyl-1H-pyrrolo[1,2-a]indol-1-one (3.62 g, 16.9 mmole) in methanol (80 mL). The reaction mixture was stirred at 25° C. overnight. The solvent was removed in vacuo, and the residue was suspended in water (80 mL). The product was extracted with chloroform (3×50 mL). The combined organic layers were washed with brine (50 mL), then dried over MgSO4, filtered, and evaporated to dryness in vacuo to afford 3.49 g (96%) of product, m.p. 82°-85° C., as a light amber solid.

reactant | Sodium borohydride | 50.7 mmole, 1.93 g | [BH4-].[Na+]
reactant | 2,3-dihydro-2,2,9-trimethyl-1H-pyrrolo[1,2-a]indol-1-one | 16.9 mmole, 3.62 g | CC1(C(C=2N(C=3C=CC=CC3C2C)C1)=O)C | C14H15NO
solvent | methanol | 80 mL | CO | CH4O
product | 2,3-Dihydro-2,2,9-trimethyl-1H-pyrrolo[1,2-a]indol-1-ol | 3.49 g, 96% | CC1(C(C=2N(C=3C=CC=CC3C2C)C1)O)C | C14H17NO
